US05719152
(5S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1-acetoxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 9-7) was performed with 4-tert-butoxycarbonylaminomethyl-2-(1-methoxycarbonyl-1-acetoxymethyl) aniline (500 mg, 1 mmol) and (S)-9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (413 mg, 1.4 mmol) to give 275 mg of the title compound (43.7%).

reactant | 4-tert-butoxycarbonylaminomethyl-2-(1-methoxycarbonyl-1-acetoxymethyl) aniline | 1 mmol, 500 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(N)C=C1)C(OC(C)=O)C(=O)OC | C17H24N2O6
reactant | (S)-9-chloro-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1.4 mmol, 413 mg | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(=O)O | C13H11ClN2O4
product | (5S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(1-methoxycarbonyl-1-acetoxymethyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 275 mg, 43.7% | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)C(OC(C)=O)C(=O)OC)=O | C30H33ClN4O9
